US09169254B2
n-Butyllithium (1.6 M solution in hexane, 0.58 ml, 0.93 mmol) was added to a solution of {4-[2-(1,4-dioxa-8-aza-spiro[4.5]decane-8-sulfonyl)-ethyl]-3,5-dimethyl-phenyl}-methyl-carbamic acid tert-butyl ester (195.7 mg, 0.4176 mmol) in THF (4.2 ml) at −78° C. over six minutes, and the mixture was stirred at the same temperature for 20 minutes. 1-Bromo-2-chloro-ethane (105 μl, 1.26 mmol) was added to the reaction solution at −78° C. within 10 minutes. The mixture was then stirred while warming from −78° C. to 0° C. over one hour, and further stirred at room temperature for one hour. A 50% saturated aqueous ammonium chloride solution was added, followed by extraction with ethyl acetate. The organic layer was then dried over MgSO4 and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/2) to give {4-[4-chloro-2-(1,4-dioxa-8-aza-spiro[4.5]decane-8-sulfonyl)-butyl]-3,5-dimethyl-phenyl}-methyl-carbamic acid tert-butyl ester (133 mg, 60%).

reactant | n-Butyllithium | 0.93 mmol, 1.6 M, 0.58 ml | C(CCC)[Li]
reactant | {4-[2-(1,4-dioxa-8-aza-spiro[4.5]decane-8-sulfonyl)-ethyl]-3,5-dimethyl-phenyl}-methyl-carbamic acid tert-butyl ester | 0.4176 mmol, 195.7 mg | C(C)(C)(C)OC(N(C)C1=CC(=C(C(=C1)C)CCS(=O)(=O)N1CCC2(OCCO2)CC1)C)=O | C23H36N2O6S
reactant | 1-Bromo-2-chloro-ethane | 1.26 mmol, 105 μl | BrCCCl | C2H4BrCl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 4.2 ml | C1CCOC1 | C4H8O
product | {4-[4-chloro-2-(1,4-dioxa-8-aza-spiro[4.5]decane-8-sulfonyl)-butyl]-3,5-dimethyl-phenyl}-methyl-carbamic acid tert-butyl ester | 133 mg, 60% | C(C)(C)(C)OC(N(C)C1=CC(=C(C(=C1)C)CC(CCCl)S(=O)(=O)N1CCC2(OCCO2)CC1)C)=O | C25H39ClN2O6S
